US05089498
A solution of methyl 3-butyryl-4-chloroquinoline-8-carboxylate (3.8 g) and 2-methylaniline (1.6 ml, 15 mmol) in 1,4-dioxan (20 ml) was heated at reflux for 30 minutes, then left to stand overnight. The solid was filtered off and washed with ethyl acetate, then converted to free base and recrystallised from methanol to obtain methyl 3-butyryl-4-(2-methylphenylamino)quinoline-8- carboxylate (2.86 g, 56%), m.p. 113-115°.

reactant | methyl 3-butyryl-4-chloroquinoline-8-carboxylate | 3.8 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C(=O)OC | C15H14ClNO3
reactant | 2-methylaniline | 15 mmol, 1.6 ml | CC1=C(N)C=CC=C1 | C7H9N
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | methyl 3-butyryl-4-(2-methylphenylamino)quinoline-8- carboxylate | 2.86 g, 56% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)C(=O)OC | C22H22N2O3
